US09427475B2
Step B: N-{2-[(α-D-mannopyranosyl-(1→3)-[α-D-mannopyranosyl-(1→6)]-α-D-mannopyranosyl)oxy]ethyl}-L-glutamine
A mixture of benzyl N2-[(benzyloxy)carbonyl]-N-{2-[(α-D-mannopyranosyl-(1→3)-[α-D-mannopyranosyl-(1→6)]-α-D-mannopyranosyl)oxy]ethyl}-L-glutaminate (1.41 g, 1.57 mmol) and Pearlman's catalyst (110 mg, 0.157 mmol) in H2O (30 mL) was agitated under 50 Psi H2 on a Parr shaker at room temperature. After 16 hours, catalyst was filtered off and the filtrate was freeze-dried to give the title compound. 1H NMR (D2O) δ 5.07 (s, 1H), 4.87 (s, 1H), 4.81 (s, 1H), 4.08-3.55 (m, 22H), 3.41-3.36 (m, 1H), 2.32 (t, J=7.5, 2H), 2.10-2.06 (m, 2H).

reactant | benzyl N2-[(benzyloxy)carbonyl]-N-{2-[(α-D-mannopyranosyl-(1→3)-[α-D-mannopyranosyl-(1→6)]-α-D-mannopyranosyl)oxy]ethyl}-L-glutaminate | 1.57 mmol, 1.41 g | C(C1=CC=CC=C1)OC(=O)N([C@@H](CCC(N)=O)C(=O)OCC1=CC=CC=C1)CCO[C@@H]1[C@@H](O)[C@@H](O[C@@H]2[C@@H](O)[C@@H](O)[C@H](O)[C@H](O2)CO)[C@H](O)[C@H](O1)CO[C@@H]1[C@@H](O)[C@@H](O)[C@H](O)[C@H](O1)CO | C40H56N2O21
catalyst | Pearlman's catalyst | 0.157 mmol, 110 mg | [OH-].[OH-].[Pd+2]
solvent | H2O | 30 mL | O | H2O
product | N-{2-[(α-D-mannopyranosyl-(1→3)-[α-D-mannopyranosyl-(1→6)]-α-D-mannopyranosyl)oxy]ethyl}-L-glutamine | [C@H]1([C@@H](O)[C@@H](O)[C@H](O)[C@H](O1)CO)O[C@@H]1[C@@H]([C@H](O[C@@H]([C@H]1O)CO[C@@H]1[C@@H](O)[C@@H](O)[C@H](O)[C@H](O1)CO)OCCN[C@@H](CCC(N)=O)C(=O)O)O | C25H44N2O19
